US06441017B1
Step G: (S)-3-(tert-Butoxycarbonylamino)-1-(2-hydroxyquinolin-8-yl)-2-oxopyrrolidine
(S)-3-(tert-Butoxycarbonylamino)-1-(2-methoxyquinolin-8-yl)-2-oxopyrrolidine, as described above in Step F, (287 mg, 0.803 mmol) and KI (240 mg, 1.44 mmol) were dissolved in AcOH (10 mL) and heated to 120° C. for 1 hour. The reaction mixture was concentrated in vacuo, to yield the above-titled compound.

reactant | (S)-3-(tert-Butoxycarbonylamino)-1-(2-methoxyquinolin-8-yl)-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)C=1C=CC=C2C=CC(=NC12)OC)=O | C19H23N3O4
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | (S)-3-(tert-Butoxycarbonylamino)-1-(2-hydroxyquinolin-8-yl)-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)C=1C=CC=C2C=CC(=NC12)O)=O | C18H21N3O4
